US08232403B2
A suspension of 2-chloro-6,7-difluoroquinoline-3-carbaldehyde (4.97 g, 18 mmol), trans-(R)-2-[(4-benzyloxymethyl)cyclohexyl]pyrrolidine (5.39 g, 20 mmol) and potassium carbonate (2.97 g, 21 mol) in toluene (100 mL) and water (10 mL) is stirred and refluxed for 3 hours. The reaction mixture is cooled to room temperature and then diluted with water and ethyl acetate. The organic layer is washed with water, citric acid aq., brine, dried over magnesium sulfate, filtered and concentrated. The crude product is purified by silica gel column chromatography to give 2-{(R)-2-[4-(benzyloxymethyl)cyclohexyl]pyrrolidin-1-yl}-6,7-difluoroquinoline-3-carbaldehyde as a yellow syrup.

reactant | 2-chloro-6,7-difluoroquinoline-3-carbaldehyde | 18 mmol, 4.97 g | ClC1=NC2=CC(=C(C=C2C=C1C=O)F)F | C10H4ClF2NO
reactant | potassium carbonate | 21 mol, 2.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{(R)-2-[4-(benzyloxymethyl)cyclohexyl]pyrrolidin-1-yl}-6,7-difluoroquinoline-3-carbaldehyde | C(C1=CC=CC=C1)OCC1CCC(CC1)[C@@H]1N(CCC1)C1=NC2=CC(=C(C=C2C=C1C=O)F)F | C28H30F2N2O2
